US04614833
2-benzoyl-6-chloro-pyridine
1.5 g 2-benzoyl-pyridine N-oxide (T. Kato et. al., see reference in Ex. 11) and 3.6 ml POCl3 are refluxed for 25 minutes. The cooled mixture is added to slightly alkaline ice:water, extracted with chloroform, the organic extract dried and solvent removed in vacuo. Yield: 1.1 g of title product, which by thin layer and gas chromatography is identical with that described in Ex. 7.

reactant | 2-benzoyl-pyridine N-oxide | 1.5 g | C(C1=CC=CC=C1)(=O)C1=[N+](C=CC=C1)[O-] | C12H9NO2
reactant | POCl3 | 3.6 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-benzoyl-6-chloro-pyridine | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1)Cl | C12H8ClNO
